US04352818
A mixture of 175 g (0.93 mol) of methyl 3-amino-2-thiophenecarboxylate hydrochloride, 1.8 l of n-butanol and 77 g of sodium hydroxide is heated to boiling under reflux for 30 minutes. After concentration of the suspension obtained, the resulting mixture of sodium salt of 3-amino-2-thiophenecarboxylic acid and sodium chloride is used directly for the next step. For this purpose, the mixture is treated with 800 ml of water, 280 ml of concentrated hydrochloric acid and 230 ml of tetrahydrofuran. At 15° to 25° phosgene is conducted through this mixture and subsequently air is conducted through the mixture for 15 minutes. The precipitated solid material is filtered off under suction, washed with water and dried. There is obtained 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione of melting point 220°-221°.

reactant | methyl 3-amino-2-thiophenecarboxylate hydrochloride | 0.93 mol, 175 g | Cl.NC1=C(SC=C1)C(=O)OC
reactant | sodium hydroxide | 77 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
reactant | 3-amino-2-thiophenecarboxylic acid | NC1=C(SC=C1)C(=O)O | C5H5NO2S
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 280 ml | Cl | ClH
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | water | 800 ml | O | H2O
solvent | n-butanol | 1.8 l | C(CCC)O | C4H10O
product | 2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
